US04115400
A solution of 17 g. of 1,2,3-trimethyl-3-phenyl-1-pyrrolinium tetrafluoroborate in 400 cc. of dichloromethane was stirred and cooled to 0° C. in an ice-water bath. A solution of diazomethane in diethyl ether was added dropwise to the reaction mixture over 21/2 hours. The reaction mixture was warmed to 25° C. and stirred for 12 hours. The solvent was evaporated from the reaction mixture under reduced pressure to provide 1,2,3-trimethyl-3-phenyl-1,2-methylene pyrrolidinium tetrafluoroborate as a solid. M.P. 151°-155° C.

reactant | 1,2,3-trimethyl-3-phenyl-1-pyrrolinium tetrafluoroborate | F[B-](F)(F)F.C[N+]1=C(C(CC1)(C1=CC=CC=C1)C)C
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,2,3-trimethyl-3-phenyl-1,2-methylene pyrrolidinium tetrafluoroborate | F[B-](F)(F)F.C[N+]12C(C(CC1)(C1=CC=CC=C1)C)(C2)C | InChI=1S/C14H20N.BF4/c1-13(12-7-5-4-6-8-12)9-10-15(3)11-14(13,15)2;2-1(3,4)5/h4-8H,9-11H2,1-3H3;/q+1;-1
